US07365063B2
1-Benzyl-5-piperazin-1-yl-1,4-dihydro-benzo[d]1,3oxazin-2-one
4-(1-Benzyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester (33 mg, 0.08 mmol) was dissolved in 4 ml ethanol. To this solution was added 2 M ethanolic hydrochloric acid solution (1 ml). The reaction mixture was heated at 100° C. for 20 minutes, at which time a crystalline solid formed. The solution was allowed to cool to room temperature and 13 mg of 1-Benzyl-5-piperazin-1-yl-1,4-dihydro-benzo[d][1,3]oxazin-2-one hydrochloride salt was collected a light yellow powder. MS: 324 (M+H)+.

reactant | 4-(1-Benzyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.08 mmol, 33 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC=2N(C(OCC21)=O)CC2=CC=CC=C2 | C24H29N3O4
reactant | hydrochloric acid | 2 M, 1 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1-Benzyl-5-piperazin-1-yl-1,4-dihydro-benzo[d]1,3oxazin-2-one | C(C1=CC=CC=C1)N1C(OCC2=C1C=CC=C2N2CCNCC2)=O | C19H21N3O2
